US04352816
0.54 g (2.4 mmol) of (S)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one and 0.32 g (2.4 mmol) of N-chlorosuccinimide are treated with 10 ml of dimethylformamide and the mixture is stirred at 90° for 40 minutes. The mixture is poured into 50 ml of water and extracted four times with chloroform. The combined chloroform extracts are washed three times with water, dried over magnesium suphate and evaporated. The crude product is chromatographed on silica gel using chloroform/methanol (19:1) for the elution and subsequently recrystallized from ethyl acetate. There is obtained (S)-1-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of melting point 210°-214°.

reactant | (S)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.4 mmol, 0.54 g | C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C13H11N3O
reactant | N-chlorosuccinimide | 2.4 mmol, 0.32 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | (S)-1-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | ClC=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C13H10ClN3O
